US06562828B1
3-[4-[5-Cyano-2-(2-hydroxyethylamino)phenylcarbamoylmethoxy]-phenoxy]pyrrolidine-1-carboxylic Acid tert-Butyl Ester
To a solution of 3-amino-4-(2-hydroxyethylamino)benzonitrile (1.21 g) and 4-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)phenoxyacetic acid (2.30 g) in chloroform (50 ml) was added 1-ethoxycarbonyl-2-ethoxy-1,2-dihydroxyquinoline (2.19 g), and the mixture was stirred at room temperature for 15 hours. After completion of the reaction, the solvent was evaporated and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:4) to give the title compound (2.56 g).

reactant | 3-amino-4-(2-hydroxyethylamino)benzonitrile | 1.21 g | NC=1C=C(C#N)C=CC1NCCO | C9H11N3O
reactant | 4-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)phenoxyacetic acid | 2.30 g | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(OCC(=O)O)C=C1 | C17H23NO6
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[4-[5-Cyano-2-(2-hydroxyethylamino)phenylcarbamoylmethoxy]-phenoxy]pyrrolidine-1-carboxylic Acid tert-Butyl Ester | 2.56 g | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(C=C1)OCC(NC1=C(C=CC(=C1)C#N)NCCO)=O | C26H32N4O6
